US07247644B2
6-[2-(2H-Tetrazol-5-yl)-ethyl]-decahydro-isoquinoline-3-carboxylic acid ethyl ester
A solution of 6.0 g (21.5 mmol) of 6-[2-(1H-Tetrazol-5-yl)-ethyl]-decahydro-isoquinoline-3-carboxylic acid monohydrate in 70 mL of ethanol saturated with hydrogen chloride (g) is heated at reflux overnight. The mixture is concentrated in vacuo, suspended in diethyl ether, and again concentrated in vacuo. The residue is suspended in diethyl ether and heated at reflux for 3 hr. The solid is filtered and rinsed with diethyl ether to afford 7.4 g (100%) of the title compound.

reactant | 6-[2-(1H-Tetrazol-5-yl)-ethyl]-decahydro-isoquinoline-3-carboxylic acid monohydrate | 21.5 mmol, 6.0 g | O.N1N=NN=C1CCC1CC2CC(NCC2CC1)C(=O)O
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 70 mL | C(C)O | C2H6O
product | 6-[2-(2H-Tetrazol-5-yl)-ethyl]-decahydro-isoquinoline-3-carboxylic acid ethyl ester | 7.4 g, 100% | C(C)OC(=O)C1NCC2CCC(CC2C1)CCC=1N=NNN1 | C15H25N5O2
